US08138197B2
tert-Butyl 4-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate
To a solution of 1.0 g of tert-butyl 4-hydroxy-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate in 40 ml of THF-CH3CN (1:1) ar rt were added 2.0 g of MS 4A, 435 mg of NMO, and 88 mg of TPAP, and the reaction mixture was stirred at rt overnight. The mixture was filtered through a Celite pad, washed with CHCl3 and CHCl3-MeOH (9:1), and the filtrate was concentrated in reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of hexane-AcOEt (100/0-0/100) as eluent to give the intended compound as a colorless solid.

reactant | tert-butyl 4-hydroxy-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate | 1.0 g | OC1CC2(CCN(CC2)C(=O)OC(C)(C)C)OC2=CC=C(C=C12)C1=NOC(N1)=O | C20H25N3O6
reactant | NMO | 435 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | THF CH3CN | 40 ml | C1CCOC1.CC#N
catalyst | TPAP | 88 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | tert-Butyl 4-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-spiro[chroman-2,4′-piperidine]-1′-carboxylate | O=C1CC2(CCN(CC2)C(=O)OC(C)(C)C)OC2=CC=C(C=C12)C1=NOC(N1)=O | C20H23N3O6
